* C:\Users\Ankit Negi\OneDrive\Documents\hustle\Analog IC Design\Inverter\inverter.asc
M1 Vmid Vmid 0 0 NMOS l=180n w=180n m=1
M2 Vdd Vmid Vmid Vdd PMOS l=180n w=180n m=1
V1 Vdd 0 1.8v
M3 N002 N001 0 0 NMOS
M4 Vdd N001 N002 Vdd PMOS
V2 N001 0 1.8v
M5 Vdd N003 N004 Vdd PMOS
M6 N004 N003 0 0 NMOS
V3 N003 0 PULSE(0 1.8v 100n 1n 1n 100n 200n)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Ankit Negi\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 400n
;.dc V2 0 1.8 0.01
.backanno
.end
